US09108938B2
2,3-Dichloro-N-[2-(4,4-difluoro-1-piperidyl)-2-(6-fluoro-3-pyridyl)ethyl]benzamide
A mixture of 2-(4,4-difluoro-piperidin-1-yl)-2-(6-fluoro-pyridin-3-yl)-ethylamine (100 mg, 0.38 mmol), 2,3-dichlorobenzoic acid (51 mg, 0.28 mmol), HOBT (57 mg, 0.42 mmol), EDC.HCl (81 mg, 0.42 mmol) and DIPEA (108 mg, 0.84 mmol) in DMF (4 mL) was stirred at room temperature overnight. The mixture was purified by preparative HPLC directly to yield the title compound (43 mg, yield: 30%)

reactant | 2-(4,4-difluoro-piperidin-1-yl)-2-(6-fluoro-pyridin-3-yl)-ethylamine | 0.38 mmol, 100 mg | FC1(CCN(CC1)C(CN)C=1C=NC(=CC1)F)F | C12H16F3N3
reactant | 2,3-dichlorobenzoic acid | 0.28 mmol, 51 mg | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | HOBT | 0.42 mmol, 57 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.42 mmol, 81 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 0.84 mmol, 108 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2,3-Dichloro-N-[2-(4,4-difluoro-1-piperidyl)-2-(6-fluoro-3-pyridyl)ethyl]benzamide | 43 mg, yield: 30% | ClC1=C(C(=O)NCC(C=2C=NC(=CC2)F)N2CCC(CC2)(F)F)C=CC=C1Cl | C19H18Cl2F3N3O
